* Sim 5: 2-Row RowCopy — The "Bug" That's a Feature
*
* 2-row activation produces COPY(A→B). We proved this "fails" as AND,
* but it's EXACTLY what we need for reloading weights after MAJ3 destroys them.
*
* Test: Copy Row A (source) value to Row B (destination)
* Protocol: ACT Row A → SA latches → ACT Row B → Row B overwritten with A's value
*
* Test all 4 combinations to verify COPY (not AND):
* A=1,B=0 → B should become 1 (copy)
* A=0,B=1 → B should become 0 (copy)
* A=1,B=1 → B stays 1
* A=0,B=0 → B stays 0

.include sky130_minimal.lib

.options reltol=0.003 abstol=1e-10 vntol=1e-5 gmin=1e-11 method=gear

.param VDD=1.8
.param Vref=0.9

Vdd vdd 0 {VDD}

* ============================================================
* Source cell (Row A) — value to copy FROM
* ============================================================
XMa bl_cells wla_local cella 0 sky130_fd_pr__nfet_01v8 w=0.42e-6 l=0.15e-6
Ccella cella 0 30f ic={VDD}

* ============================================================
* Destination cell (Row B) — value to copy TO
* ============================================================
XMb bl_cells wlb_local cellb 0 sky130_fd_pr__nfet_01v8 w=0.42e-6 l=0.15e-6
Ccellb cellb 0 30f ic=0

* Reference cell on /BL
XMref blb_cells wl_ref cellref 0 sky130_fd_pr__nfet_01v8 w=0.42e-6 l=0.15e-6
Ccellref cellref 0 30f ic={Vref}

* Bitline segments with RC
Cbl_seg_t bl_cells 0 150f
Rbl_t bl_cells bl_iso_t 500
Cbl_seg_b blb_cells 0 150f
Rbl_b blb_cells blb_iso_b 500

* ISO transistors
XM_iso_t bl_iso_t iso bl_sa 0 sky130_fd_pr__nfet_01v8 w=1.68e-6 l=0.15e-6
XM_iso_b blb_iso_b iso blb_sa 0 sky130_fd_pr__nfet_01v8 w=1.68e-6 l=0.15e-6

Csa_t bl_sa 0 5f
Csa_b blb_sa 0 5f

* Sense amp
XMn1 bl_sa blb_sa san_local 0 sky130_fd_pr__nfet_01v8 w=0.84e-6 l=0.15e-6
XMn2 blb_sa bl_sa san_local 0 sky130_fd_pr__nfet_01v8 w=0.84e-6 l=0.15e-6
XMp1 bl_sa blb_sa sap_local vdd sky130_fd_pr__pfet_01v8 w=1.26e-6 l=0.15e-6
XMp2 blb_sa bl_sa sap_local vdd sky130_fd_pr__pfet_01v8 w=1.26e-6 l=0.15e-6

R_san san_drive san_local 200
C_san san_local 0 50f
R_sap sap_drive sap_local 200
C_sap sap_local 0 50f

* Precharge
XMpre_t bl_sa pre_sig pre_ref 0 sky130_fd_pr__nfet_01v8 w=0.84e-6 l=0.15e-6
XMpre_b blb_sa pre_sig pre_ref 0 sky130_fd_pr__nfet_01v8 w=0.84e-6 l=0.15e-6
XMeq bl_sa pre_sig blb_sa 0 sky130_fd_pr__nfet_01v8 w=0.42e-6 l=0.15e-6
Vpre_ref pre_ref 0 {Vref}

R_wla wla_drive wla_local 1000
C_wla wla_local 0 20f
R_wlb wlb_drive wlb_local 1000
C_wlb wlb_local 0 20f
R_wlref wlref_drive wl_ref 1000
C_wlref wl_ref 0 20f

* ============================================================
* PROTOCOL: 2-Row RowCopy
* ============================================================
* 0-10ns: Precharge on, ISO on, SA off
* 10ns:   PRE off. WL_A + WL_ref open. Charge sharing.
* 15ns:   SA fires. Latches Row A value. Drives BL to rail.
* 25ns:   WL_B opens (Row B). SA overwrites Row B with Row A's value.
* 40ns:   Measure — Row B should equal Row A.

Vpre pre_sig 0 PWL(0 2.5 9.9n 2.5 10n 0 80n 0)
Viso iso 0 2.5

* WL_A: open at 10ns (stays open — weight source)
Vwla wla_drive 0 PWL(0n 0 10n 0 10.1n 2.5 80n 2.5)
Vwlref wlref_drive 0 PWL(0n 0 10n 0 10.1n 2.5 80n 2.5)

* SA: fires at 15ns (full, not partial)
Vsan san_drive 0 PWL(0 {Vref} 15n {Vref} 15.5n 0 80n 0)
Vsap sap_drive 0 PWL(0 {Vref} 15n {Vref} 15.5n {VDD} 80n {VDD})

* WL_B: opens at 25ns (after SA has fully resolved)
Vwlb wlb_drive 0 PWL(0n 0 25n 0 25.1n 2.5 80n 2.5)

.ic V(bl_cells)={Vref} V(blb_cells)={Vref}
+ V(bl_sa)={Vref} V(blb_sa)={Vref}
+ V(bl_iso_t)={Vref} V(blb_iso_b)={Vref}
+ V(cella)={VDD} V(cellb)=0 V(cellref)={Vref}

.tran 0.1n 80n uic

.meas tran V_cella_final FIND V(cella) AT=60n
.meas tran V_cellb_final FIND V(cellb) AT=60n
.meas tran V_bl_final FIND V(bl_sa) AT=60n

.backanno
.end
